* 6T SRAM Read Static Noise Margin (RSNM) Simulation
* Target: SkyWater 130nm PDK (1.8V Operation)

*** 1. MOCK SUBCIRCUIT DEFINITIONS FOR SKY130 MODELS ***
.subckt sky130_fd_pr__nfet_01v8 d g s b W=0.42 L=0.15
.model mock_nfet nmos (level=1 vto=0.4 kp=120u)
M0 d g s b mock_nfet w={W} l={L}
.ends

.subckt sky130_fd_pr__pfet_01v8 d g s b W=0.21 L=0.15
.model mock_pfet pmos (level=1 vto=-0.4 kp=40u)
M0 d g s b mock_pfet w={W} l={L}
.ends

*** 2. MODULE: 8-TERMINAL 6T SRAM CELL ***
.subckt sram_6t_cell WL BL BLB VDD VSS Q QB Q_gate QB_gate
XNM1 QB Q_gate VSS VSS sky130_fd_pr__nfet_01v8 W=0.42 L=0.15
XNM2 Q  QB_gate VSS VSS sky130_fd_pr__nfet_01v8 W=0.42 L=0.15
XPM1 QB Q_gate VDD VDD sky130_fd_pr__pfet_01v8 W=0.21 L=0.15
XPM2 Q  QB_gate VDD VDD sky130_fd_pr__pfet_01v8 W=0.21 L=0.15
XMA1 BLB WL QB VSS sky130_fd_pr__nfet_01v8 W=0.30 L=0.15
XMA2 BL  WL Q  VSS sky130_fd_pr__nfet_01v8 W=0.30 L=0.15
.ends

*** 3. POWER SUPPLIES & READ CONDITION BIASING ***
Vdd  VDD  0 DC 1.8
Vss  VSS  0 DC 0
Vwl  WL   0 DC 1.8
Vbl  BL   0 DC 1.8
Vblb BLB  0 DC 1.8
Vsrc Vsweep 0 DC 0

*** 4. DUAL INSTANTIATION FOR BUTTERFLY CURVE ***
* FIXED: Appended 'sram_6t_cell' to the end of both lines below
Xcell1 WL BL BLB VDD VSS Q1 QB1 Vsweep VSS sram_6t_cell
Xcell2 WL BL BLB VDD VSS Q2 QB2 VSS    Vsweep sram_6t_cell

*** 5. SIMULATION DIRECTIVE ***
.dc Vsrc 0 1.8 0.01

*** 6. CORRECTED CONTROL BLOCK FOR PLOTTING ***
.control
run
set xbrushwidth=2
plot v(qb1) vs v(vsweep) v(vsweep) vs v(q2) title 'Sky130 6T SRAM RSNM Butterfly Curve' xl 0 1.8 yl 0 1.8
.endc

.end
