* 6T SRAM Write Access Time Extraction (.measure)
* Target: SkyWater 130nm PDK (1.8V, TT Corner)

*** 1. FOUNDRY PDK INCLUSION ***
.options search="/mnt/c/Users/yashw/SRAM_SKY130/OPENRAM/sky130A/models"
.lib "/mnt/c/Users/yashw/SRAM_SKY130/OPENRAM/sky130A/models/sky130.lib.spice" tt

*** 2. SUBSYSTEM MODULES (DRC COMPLIANT) ***
.subckt sram_6t_cell WL BL BLB VDD VSS Q QB
XNM1 QB Q   VSS VSS sky130_fd_pr__nfet_01v8 W=0.84 L=0.15
XNM2 Q  QB  VSS VSS sky130_fd_pr__nfet_01v8 W=0.84 L=0.15
XPM1 QB Q   VDD VDD sky130_fd_pr__pfet_01v8 W=0.42 L=0.15
XPM2 Q  QB  VDD VDD sky130_fd_pr__pfet_01v8 W=0.42 L=0.15
XMA1 BLB WL QB  VSS sky130_fd_pr__nfet_01v8 W=0.42 L=0.15
XMA2 BL  WL Q   VSS sky130_fd_pr__nfet_01v8 W=0.42 L=0.15
.ends

* FIXED: Upscaled Pre-Charge PMOS to 4.0um to drive 100fF load faster
.subckt sram_precharge PRE_B BL BLB VDD
XPM1 BL  PRE_B VDD VDD sky130_fd_pr__pfet_01v8 W=4.0 L=0.15
XPM2 BLB PRE_B VDD VDD sky130_fd_pr__pfet_01v8 W=4.0 L=0.15
XPM3 BL  PRE_B BLB VDD sky130_fd_pr__pfet_01v8 W=2.0 L=0.15
.ends

.subckt write_driver WRITE_EN DATA_IN DATA_IN_B BL BLB VSS
XN1 BL       WRITE_EN  mid_l VSS sky130_fd_pr__nfet_01v8 W=2.0 L=0.15
XN2 mid_l    DATA_IN_B VSS   VSS sky130_fd_pr__nfet_01v8 W=2.0 L=0.15
XN3 BLB      WRITE_EN  mid_r VSS sky130_fd_pr__nfet_01v8 W=2.0 L=0.15
XN4 mid_r    DATA_IN   VSS   VSS sky130_fd_pr__nfet_01v8 W=2.0 L=0.15
.ends

*** 3. SYSTEM INSTANTIATION & LOADS ***
Vdd VDD 0 DC 1.8
Vss VSS 0 DC 0

Xpre   PRE_B  BL BLB VDD      sram_precharge
Xcell1 WL     BL BLB VDD VSS  Q QB sram_6t_cell
Xdrv1  WRITE_EN DATA_IN DATA_IN_B BL BLB VSS write_driver

C_bl  BL  0 100f
C_blb BLB 0 100f

*** 4. TIMING SIGNAL INJECTION ***
Vpc PRE_B 0 PULSE(0 1.8 1ns 0.01ns 0.01ns 4ns 5ns)
Vwl WL 0 PULSE(0 1.8 1.5ns 0.01ns 0.01ns 2ns 5ns)
Vwen WRITE_EN 0 PULSE(0 1.8 1.7ns 0.01ns 0.01ns 1.5ns 5ns)
Vdata  DATA_IN   0 DC 0
Vdatab DATA_IN_B 0 DC 1.8

.ic v(q)=1.8 v(qb)=0 v(bl)=0 v(blb)=0

*** 5. SIMULATION DIRECTIVE ***
.tran 0.001ns 3.5ns uic

*** 6. AUTOMATED DELAY EXTRACTION (.MEASURE) ***
.measure tran write_access_delay TRIG v(write_en) VAL=0.9 RISE=1 TARG v(q) VAL=0.9 FALL=1

*** 7. CONTROL BLOCK ***
.control
run
plot v(write_en) v(bl) v(q) title 'SRAM Write Timing Verification (Real Sky130 PDK)'
print write_access_delay
.endc

.end
